simulator lang=spectre
global 0

ahdl_include "../submission/noise_gen_ref.va"

// noise_gen gold smoke testbench
// DC input at 1.0V; noise_gen adds deterministic sampled dither (sigma=0.1V, dt=0.5ns).
// Runs 500ns. Check: std(noise) > 0.01V, max|noise| > 0.05V.
Vvin (vin_i 0) vsource type=dc dc=1.0
IDUT (vin_i vout_o) noise_gen sigma=0.1 dt=0.5n

tran tran stop=500n maxstep=1n
save vin_i vout_o
