simulator lang=spectre
global 0

ahdl_include "./dut/cross_interval_163p333_ref.va"

Vvdd (vdd 0) vsource dc=1.0 type=dc
Vvss (vss 0) vsource dc=0.0 type=dc
// The two ramps cross 0.45 V at 10.000000 ns and 10.163333 ns.
Va (a 0) vsource type=pwl wave=[0 0 9.95n 0 10.05n 0.9 12n 0.9]
Vb (b 0) vsource type=pwl wave=[0 0 10.113333n 0 10.213333n 0.9 12n 0.9]
IDUT (vdd vss a b delay_out seen_out) cross_interval_163p333_ref

tran tran stop=12n maxstep=5p errpreset=conservative
save vdd vss a b delay_out seen_out
