simulator lang=spectre
global 0

ahdl_include "./dut/deterministic_jittered_clock.va"

Vseed0 (seed0 0) vsource type=pwl wave=[0 0.9 9.5n 0.9 10n 0.9]
Vseed1 (seed1 0) vsource type=pwl wave=[0 0.9 9.5n 0.9 10n 0.9]
Vseed2 (seed2 0) vsource type=pwl wave=[0 0 9.5n 0 10n 0]
Vseed3 (seed3 0) vsource type=pwl wave=[0 0.9 9.5n 0.9 10n 0.9]
Vseed4 (seed4 0) vsource type=pwl wave=[0 0.9 9.5n 0.9 10n 0.9]
Vseed5 (seed5 0) vsource type=pwl wave=[0 0 9.5n 0 10n 0]
Vseed6 (seed6 0) vsource type=pwl wave=[0 0.9 9.5n 0.9 10n 0.9]
Vseed7 (seed7 0) vsource type=pwl wave=[0 0 9.5n 0 10n 0]
XDUT (jitter_en seed0 seed1 seed2 seed3 seed4 seed5 seed6 seed7 clk_out) deterministic_jittered_clock
Vjitter_en (jitter_en 0) vsource type=pwl wave=[0 0.9 220n 0.9]

tran tran stop=220n maxstep=50p
save jitter_en seed0 seed1 seed2 seed3 seed4 seed5 seed6 seed7 clk_out
