simulator lang=spectre
global 0

ahdl_include "../submission/ref_flash_8level_decoder.va"

Vclks (clks 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0.9 1.50n 0.9 1.55n 0 11n 0 11.05n 0.9 11.50n 0.9 11.55n 0 21n 0 21.05n 0.9 21.50n 0.9 21.55n 0 31n 0 31.05n 0.9 31.50n 0.9 31.55n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.1 7.95n 0.1 8n 0.2 17.95n 0.2 18n -0.1 27.95n -0.1 28n 0.3]
Vdt0 (dt0 0) vsource type=pwl wave=[0 0 7.95n 0 8n 0.9]
Vdt1 (dt1 0) vsource type=pwl wave=[0 0 7.95n 0 8n 0.9]
Vdt2 (dt2 0) vsource type=pwl wave=[0 0 7.95n 0 8n 0.9]
Vdt3 (dt3 0) vsource type=pwl wave=[0 0 17.95n 0 18n 0.9]
Vdt4 (dt4 0) vsource type=pwl wave=[0 0 17.95n 0 18n 0.9]
Vdt5 (dt5 0) vsource type=pwl wave=[0 0 27.95n 0 28n 0.9]
Vdt6 (dt6 0) vsource type=pwl wave=[0 0 27.95n 0 28n 0.9]
Vdt7 (dt7 0) vsource type=pwl wave=[0 0 27.95n 0 28n 0.9]
XDUT (vin dt0 dt1 dt2 dt3 dt4 dt5 dt6 dt7 clks dout vres) ref_flash_8level_decoder

tran tran stop=40n maxstep=20p
save clks dout dt0 dt1 dt2 dt3 dt4 dt5 dt6 dt7 vin vres
