simulator lang=spectre
global 0

ahdl_include "./dut/sine_vco_idtmod_bound_step.va"

// Visible smoke testbench for sine_vco_idtmod_bound_step.
// Constant vin = 0.2 V => freq_q = 20.0e6 + 40.0e6*0.2 = 28 MHz.
Vvin (vin 0) vsource dc=0.2 type=dc
XDUT (vin out metric) sine_vco_idtmod_bound_step

tran tran stop=1.5u maxstep=8n
save vin out metric
