simulator lang=spectre
global 0

ahdl_include "./dut/single_adc_7b_weighted.va"

Vb0 (din0 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0.9 2n 0.9 2.05n 0 3n 0 3.05n 0.9 4n 0.9]
Vb1 (din1 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0 2n 0 2.05n 0.9 3n 0.9 3.05n 0.9 4n 0.9]
Vb2 (din2 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0.9 2n 0.9 2.05n 0 3n 0 3.05n 0.9 4n 0.9]
Vb3 (din3 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0 2n 0 2.05n 0.9 3n 0.9 3.05n 0.9 4n 0.9]
Vb4 (din4 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0.9 2n 0.9 2.05n 0 3n 0 3.05n 0.9 4n 0.9]
Vb5 (din5 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0 2n 0 2.05n 0.9 3n 0.9 3.05n 0.9 4n 0.9]
Vb6 (din6 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0.9 2n 0.9 2.05n 0 3n 0 3.05n 0.9 4n 0.9]
XDUT (din0 din1 din2 din3 din4 din5 din6 dout) single_adc_7b_weighted

tran tran stop=2.8n maxstep=10p
save din0 din1 din2 din3 din4 din5 din6 dout
