simulator lang=spectre
global 0

ahdl_include "./dut/ffe_tap_adaptation_monitor_top.va"
ahdl_include "./dut/tap_update_controller.va"
ahdl_include "./dut/cursor_metric_core.va"

Verr_in (err_in 0) vsource type=pwl wave=[0 0.300 9n 0.300 15n 0.680 38n 0.680 42n 0.420 48n 0.420 72n 0.315]
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=5n width=2.5n delay=1.2n rise=60p fall=60p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.7n 0.9 1.8n 0 72n 0]
Venable (enable 0) vsource type=pwl wave=[0 0 4.5n 0 4.6n 0.9 44.64n 0.9 44.74n 0 50.64n 0 50.74n 0.9 72n 0.9]

XDUT (err_in clk rst enable tap_pre tap_post main_out adapt_metric done) ffe_tap_adaptation_monitor_top


tran tran stop=72n maxstep=100p
save err_in clk rst enable tap_pre tap_post main_out adapt_metric done
